US07253286B2
6-(4-Benzyloxyphenyl)-4-(4-nitrophenoxy)-7H-pyrrolo[2,3-d]pyrimidine
After adding 2.97 of potassium carbonate and 30 ml of dimethylformamide to 3.09 g of 4-nitrophenol and stirring the mixture at 130° C. for 10 minutes, 2.49 g of 6-(4-benzyloxyphenyl)-4-chloro-7H-pyrrolo[2,3-d]pyrimidine was added and the mixture was further stirred at 130° C. for 5 hours and at 135° C. overnight. After returning the mixture to room temperature, water was added, the precipitated solid was filtered out and subjected to NH silica gel column chromatography (ethyl acetate) and silica gel column chromatography (ethyl acetate), and then ether and ethyl acetate were added prior to sonication. The solid was filtered out to obtain 1.2 g of the title compound.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | 4-nitrophenol | 3.09 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 6-(4-benzyloxyphenyl)-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 2.49 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC2=C(N=CN=C2Cl)N1 | C19H14ClN3O
solvent | water | O | H2O
product | 6-(4-Benzyloxyphenyl)-4-(4-nitrophenoxy)-7H-pyrrolo[2,3-d]pyrimidine | 1.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC2=C(N=CN=C2OC2=CC=C(C=C2)[N+](=O)[O-])N1 | C25H18N4O4
